US08309581B2
b) 2-(2-Chloro-pyridin-3-yl)-5,6-difluoro-1H-benzoimidazole
To a suspension of 2-chloro-nicotinic acid (4.10 g, 0.026 mol; CAS Reg. No. 2942-59-8) in polyphosphoric acid (50 g) was added 4,5-difluoro-benzene-1,2-diamine (3.86 g, 0.026 mol; CAS Reg. No. 76179-40-3) and the resulting mixture was heated to 180° C. for 1 h. The reaction mixture was then cooled and neutralized with ice cold 10% aqueous sodium carbonate solution, and then extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude residue thus obtained was purified by column chromatography over silica gel (25% ethyl acetate/n-hexane) to give the title compound as a brown solid (48%). MS (Turbo Spray): m/z=266.1 (M+H).

reactant | 2-chloro-nicotinic acid | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 4,5-difluoro-benzene-1,2-diamine | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
product | 2-(2-Chloro-pyridin-3-yl)-5,6-difluoro-1H-benzoimidazole | 48% | ClC1=NC=CC=C1C1=NC2=C(N1)C=C(C(=C2)F)F | C12H6ClF2N3
